2124-08-26 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt. started on standing haldol as per neuroloy recs, but patient had QT
   prolongation to 0.49, so patient was changed to zyprexa 5mg QID.
   Treatment with cidofovir was initiated yesterday, with probenecid for
   renal protection
   Patient to get an EEG today
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2124-8-25**] 10:20 PM
   Micafungin - [**2124-8-26**] 01:38 AM
   Meropenem - [**2124-8-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2124-8-25**] 10:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-26**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96.1
   HR: 114 (108 - 126) bpm
   BP: 114/73(84) {76/44(32) - 154/114(151)} mmHg
   RR: 29 (15 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,820 mL
                                                                  1,853 mL
   PO:
             TF:
   IVF:
                                                                  3,620 mL
                                                                  1,743 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                    485 mL
                                                                    345 mL
   Urine:
                                                                    485 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,335 mL
                                                                  1,508 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   gen-altered, moving around in bed, moaning
   HEENT-nc/at, PERRL but slightly sluggish, +conjunctival and scleral
   edema, +scleral icterus, dry MM, NGT in place
   neck-supple, no LAD
   chest-b/l slight expiratory wheezes,bibasilar crackles
   heart- s1s2 tachycardic, +systolic flow murmur throughout precordium
   abd-+hypoactive bs, soft, NT, ND
   ext-no c/c/ 2+edema. R.knee and dorsal surface of hand with slight
   erythema.
   neuro-AAOx0, moving all 4 extremities, no noticeable tremor.
   Labs / Radiology
   41 K/uL
   6.6 g/dL
   110 mg/dL
   0.5 mg/dL
   17 mEq/L
   3.2 mEq/L
   16 mg/dL
   112 mEq/L
   137 mEq/L
   19.6 %
   6.2 K/uL
        [image002.jpg]
                            [**2124-8-26**]  04:40 AM
   WBC
   6.2
   Hct
   19.6
   Plt
   41
   Cr
   0.5
   Glucose
   110
   Other labs: PT / PTT / INR:17.2/32.5/1.5, ALT / AST:141/97, Alk Phos /
   T Bili:391/6.3, Differential-Neuts:88.0 %, Lymph:8.2 %, Mono:3.5 %,
   Eos:0.2 %, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:597 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   This is a 57-year-old gentleman with CLL and large cell transformation
   s/p MURD SCT on [**3-10**], recently discharged from [**Hospital1 19**] to rehab, now
   readmitted for increased diarrhea, abdominal pain, and waxing/[**Doctor Last Name 533**]
   mental status.
   #AMS-Likely etiology is thought to be infectious due to adenovirus and
   BK virus being detected in the [**Doctor Last Name 573**], but <500 copies of adenovirus and
   BK being very highly positive in the [**Last Name (LF) 573**], [**First Name3 (LF) **] thought to be due to BK
   encephalitis. Due to deterioration in mental status and persistent
   altered state, ID has recommended adding viral studies to the CSF and
   to start empiric treatment with IV cidofovir at 5mg/kg IV weekly. In
   addition, he will need IV hydration with NS and he must receive oral
   probenecid (as this does not come IV) for renal protection. Other
   etiologies of AMS could include toxic metabolic or medication effect
   given recent recent ativan and morphine for pain control. In addition,
   malignant process such as return of cancer could be possible but CSF
   did not show malignant cells. In addition, MRI, though a poor study did
   not show any other possible explanations.
   -Started treatment with cidofovir, patient tolerated probenecid and IVF
   hydration very well
   - Changed standing haldol to Zyprexa due to QTc prolongation, will
   continue to monitor QTc
   - ID and neuro following, appreciate recs
   -f/u CSF viral PCRs and well as pending cxs
   -started cidofovir 400mg and probenacid as directed by protocol
   -avoid mind alternating medications
 ativan, morphine, etc.
   -started thiamine IV x 5 days and po folate,
   -will f/u EEG from today
   -continue broad antibiotic coverage with daptomycin and meropenem
   pending further culture data
   -continue micafungin for fungal ppx while on heavy immunosuppression
   .
   #Hypothermia-has been improving with warming blankets, thought to be
   secondary to infection. Pt apparently displayed this physiology with
   his prior viral infectious. Could also be secondary to an endocrine
   source.
   -thyroid studies: TSH and T4 mildly decreased, but in the context of an
   acute illness are difficult to assess.  Could consider cortisol stim
   test if he remains hypothermic and no infectious etiology is found
   -warming blankets.
   -on daptomycin and meropenem in case of bacterial sepsis, as per ID
   team
   .
   # s/p CLL with BMT c/b GVHD
   -care per BMT team, discuss immunosuppressant and prophylactic
   regimens.
   -can d/c acyclovir with initiation of cidofovir
   .
   #GI:diarrhea, could be related to immunosuppression/medication effect,
   GVHD.
   - stool cultures  NG thus far.
   - iv fluids PRN
   - replete lytes.
   .
   #Elevated LFTs/bili-chronic since around [**4-25**], per BMT thought to be
   mainly due to GVHD, could be acutely worsened by viral infection.  Will
   continue to monitor and continue immune suppression regimen as per BMT
   team.
   -If worsens, consider RUQ u/s
   .
   #Anemia-baseline is chronic likely secondary to
   immunosuppresion/infection/GVHD, but acute drop in HCT today likely due
   to IVF administration, HCT fell below 21 today.
   -Check a type and screen since he does not have an active one.  F/U
   transfusion threshold with BMT but will likely transfuse 1 unit PRBC
   -Continue to monitor
   .
   #Thrombocytopenia-chronic as with anemia. Continue to monitor.
   .
   #Non gap metabolic acidosis-based on VBG looks like a primary
   respiratory alkalemia likely due to hyperventilation from agitation,
   and compensatory metabolic academia
   -could also be related to diarrhea and IVF
   .
   #HTN-currently normotensive, will hold outpatient medications
   .
   #HL-currently holding statin given transaminitis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-8-25**] 01:20 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending decreased nursing needs now that NGT is in
   place
   ------ Protected Section ------
   MICU Attending Addendum:
   I examined the patient today, reviewed the history and laboratory data
   and was present for the key portion of the services provided. I have
   also reviewed Dr [**Last Name (STitle) 10627**]
s note above and largely agree with the
   findings and plan of care.  I have also discussed the patient
s status
   with Dr [**Last Name (STitle) 383**].  Over the morning the patient has continued to be
   unresponsive and yet is now starting to look agitated again.
   Furthermore he has a rising lactate and a metabolic acidosis (7.27 on
   VBG, compared to 7.42 earlier today).  The possibility of sepsis is
   high, including intra-abdominal with his GVHD.  Given acidemia and
   severely altered mental status, we feel intubation is in order, and Dr
   [**Last Name (STitle) 383**] agrees and pt
s wife consents. If hemodynamically stable I
   concur with abd CT later today. Overall prognosis is very guarded, but
   for now we will continue max care.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   45 min spent in the care of this critically ill pt.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2124-8-26**] 13:55 ------
   Additional MICU Attending Addendum 15:00hr
   Repeat [**Year (4 digits) 573**] gases (abg
s) now show pH 7.42 and arterial lactate is
   only 1+. Now that haldol, Zyprexa, and benadryl stopped, patient has
   times when he follows simple commands.  We will follow his clinical
   trajectory closely and for now hold off on intubation though if he
   becomes progressively acidotic or deeply obtunded we will have low
   threshold for intubation then.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2124-8-26**] 15:28 ------

2124-08-27 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS
   24 Hour Events:
   - s/p 1u PRBC Hct 19.6 -> 24
   - EEG today  (iv benadryl prior to study to calm him down)
   - needs another dose of cidofovir (w probenecid next friday)- no
   evidence that it will work even if he were infected in CSF; no evidence
   yet that his CSF is infected w BK virus
   - keeping immunosuppressants for now, per dr. [**Last Name (STitle) **]
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2124-8-26**] 09:55 PM
   Micafungin - [**2124-8-27**] 01:35 AM
   Meropenem - [**2124-8-27**] 04:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-27**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35
C (95
   HR: 93 (77 - 116) bpm
   BP: 102/69(75) {84/52(70) - 122/92(100)} mmHg
   RR: 25 (0 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,177 mL
                                                                    536 mL
   PO:
             TF:
   IVF:
                                                                  2,612 mL
                                                                    486 mL
   [**Year (4 digits) **] products:
                                                                    285 mL
   Total out:
                                                                    970 mL
                                                                    320 mL
   Urine:
                                                                    970 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,207 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.43/27/91/18/-4
   Physical Examination
   gen-altered, moving around in bed, moaning
   HEENT-nc/at, PERRL but slightly sluggish, +conjunctival and scleral
   edema, +scleral icterus, dry MM, NGT in place
   neck-supple, no LAD
   chest-b/l slight expiratory wheezes,bibasilar crackles
   heart- s1s2 tachycardic, +systolic flow murmur throughout precordium
   abd-+hypoactive bs, soft, NT, ND
   ext-no c/c/ 2+edema. R.knee and dorsal surface of hand with slight
   erythema.
   neuro-AAOx0, moving all 4 extremities, no noticeable tremor.
   Labs / Radiology
   34 K/uL
   8.1 g/dL
   104 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.8 mEq/L
   16 mg/dL
   115 mEq/L
   140 mEq/L
   24.0 %
   6.7 K/uL
        [image002.jpg]
                            [**2124-8-26**]  04:40 AM
                            [**2124-8-26**]  02:16 PM
                            [**2124-8-26**]  03:16 PM
                            [**2124-8-27**]  06:00 AM
   WBC
   6.2
   6.4
   6.7
   Hct
   19.6
   23.7
   24.0
   Plt
   41
   39
   34
   Cr
   0.5
   0.5
   HCO3
   17
   18
   Glucose
   110
   110
   Other labs: PT / PTT / INR:17.2/32.5/1.5, ALT / AST:134(141)/91 (97),
   Alk Phos / T Bili464(:391)/6.7(6.3), Lactic Acid:1.3 mmol/L,
   Albumin:2.0 g/dL, LDH:643(597) IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.1 mg/dL
   Micro: NGTD
   Radiology: None
   Assessment and Plan
   This is a 57-year-old gentleman with CLL and large cell transformation
   s/p MURD SCT on [**3-10**], recently discharged from [**Hospital1 19**] to rehab, now
   readmitted for increased diarrhea, abdominal pain, and waxing/[**Doctor Last Name 533**]
   mental status.
   #AMS-Patient appears more awake today. Likely etiology is thought to be
   infectious due to adenovirus and BK virus being detected in the [**Doctor Last Name 573**],
   but <500 copies of adenovirus and BK being very highly positive in the
   [**Last Name (LF) 573**], [**First Name3 (LF) **] thought to be due to BK encephalitis. Due to deterioration in
   mental status and persistent altered state, ID has recommended adding
   viral studies to the CSF and to start empiric treatment with IV
   cidofovir at 5mg/kg IV weekly. In addition, he will need IV hydration
   with NS and he must receive oral probenecid (as this does not come IV)
   for renal protection. Other etiologies of AMS could include toxic
   metabolic or medication effect given recent recent ativan and morphine
   for pain control. In addition, malignant process such as return of
   cancer could be possible but CSF did not show malignant cells. In
   addition, MRI, though a poor study did not show any other possible
   explanations.
   -Started treatment with cidofovir, patient tolerated probenecid and IVF
   hydration very well
   - Hold all sedating medication for now
   - ID and neuro following, appreciate recs
   - f/u CSF viral PCRs and well as pending cxs
   -started cidofovir 400mg and probenacid as directed by protocol
   -avoid mind alternating medications
 ativan, morphine, etc.
   -started thiamine IV x 5 days and po folate,
   - Consider holding EEG for now as do not want to give patient more
   sedation and appears to be improving..will touch base with Neuro
   -continue broad antibiotic coverage with daptomycin and meropenem ( Day
   1: [**8-25**]?) pending further culture data
   -continue micafungin for fungal ppx while on heavy immunosuppression
   - NG tube for oral meds in setting of AMS
   .
   #Hypothermia-has been improving with warming blankets, thought to be
   secondary to infection. Pt apparently displayed this physiology with
   his prior viral infectious. Could also be secondary to an endocrine
   source.
   -thyroid studies: TSH and T4 mildly decreased, but in the context of an
   acute illness are difficult to assess.  Could consider cortisol stim
   test if he remains hypothermic and no infectious etiology is found; but
   will likely be an innacurate readins as patient is on
   methylprenisolone.
   -warming blankets.
   -on daptomycin and meropenem in case of bacterial sepsis, as per ID
   team
   .
   # s/p CLL with BMT c/b GVHD
   -care per BMT team, discuss immunosuppressant and prophylactic
   regimens.
   - Continue cidofovir
   .
   #GI:diarrhea, could be related to immunosuppression/medication effect,
   GVHD.
   - stool cultures  NG thus far.
   - iv fluids PRN
   - replete lytes.
   .
   #Elevated LFTs/bili-chronic since around [**4-25**], per BMT thought to be
   mainly due to GVHD, could be acutely worsened by viral infection.  Will
   continue to monitor and continue immune suppression regimen as per BMT
   team.
   -If worsens, consider RUQ u/s
   .
   #Anemia-baseline is chronic likely secondary to
   immunosuppresion/infection/GVHD, but acute drop in HCT today likely due
   to IVF administration, HCT fell below 21 yesterday and s/p 1 unit
   prbc
s, with appropriate increase to 24.
   -Check a type and screen since he does not have an active one.
   -Transfustion threshold 21
   - Active type and screen
   - Guaiac stools
   -Continue to monitor
   .
   #Thrombocytopenia-chronic as with anemia. Continue to monitor.
   .
   #Non gap metabolic acidosis- Patient with primary respiratory alkalosis
   likely from CNS origin; with metabolic compensation on top of a non
   anion gap metabolic acidosis likely secondary to diarrhea
   -Continue to monitor respiratory status
   - Follow bicarbs and vbg
   .
   #HTN-currently normotensive, will hold outpatient medications
   .
   #HL-currently holding statin given transaminitis
   ICU Care
   Nutrition: TPN order in per nutrition
   Glycemic Control:
   Lines:
   PICC Line - [**2124-8-25**] 01:20 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending decreased nursing needs now that NGT is in
   place
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient and was present for the key portions
   of the services provided. I have reviewed Dr [**Last Name (STitle) 10611**]
s note and agree
   with her findings and plan of care.  The patient neurologically is
   improved today, even responds to voice commands and follows them. His
   acid base status seems like primary resp alkalosis with metabolic
   compensation in the form of a non anion gap acidosis.  Lactate and
   lytes are quite nicely stable.  TPN has been ordered. I
ve talked to Dr
   [**Last Name (STitle) 383**], and we agree that if a critical care bed is urgently needed
   tonight, Mr [**Known lastname 9130**] can be safely transferred to 7 Felberg for ongoing
   monitoring.  For now I would not re sedate him unless critically
   necessary to do so.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2124-8-27**] 15:52 ------

2124-08-28 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - EEG not done today; neuro never came by and we didn't want to sedate
   him as he is slowly waking up.
   - Gave 1 liter of LR b/c appeared volume down and decreased UOP...was
   ok, then dropped off again so gave another bolus around [**2144**].
   - Gave IVIG per BMT
   - Likely call out in AM, and BMT is ok with this
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2124-8-27**] 08:30 PM
   Micafungin - [**2124-8-28**] 01:15 AM
   Meropenem - [**2124-8-28**] 03:35 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-8-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 99 (84 - 114) bpm
   BP: 113/65(77) {84/37(35) - 137/100(104)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,812 mL
                                                                  1,854 mL
   PO:
             TF:
   IVF:
                                                                  3,435 mL
                                                                  1,571 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                    845 mL
                                                                    835 mL
   Urine:
                                                                    845 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,967 mL
                                                                  1,019 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   gen-altered, moving around in bed, moaning
   HEENT-nc/at, PERRL but slightly sluggish, +conjunctival and scleral
   edema, +scleral icterus, dry MM, NGT in place
   neck-supple, no LAD
   chest-b/l slight expiratory wheezes,bibasilar crackles
   heart- s1s2 tachycardic, +systolic flow murmur throughout precordium
   abd-+hypoactive bs, soft, NT, ND
   ext-no c/c/ 2+edema. R.knee and dorsal surface of hand with slight
   erythema.
   neuro-AAOx0, moving all 4 extremities, no noticeable tremor.
   Labs / Radiology
   18 K/uL
   6.6 g/dL
   104 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.8 mEq/L
   16 mg/dL
   115 mEq/L
   140 mEq/L
   20.1 %
   5.0 K/uL
        [image002.jpg]
                            [**2124-8-26**]  04:40 AM
                            [**2124-8-26**]  02:16 PM
                            [**2124-8-26**]  03:16 PM
                            [**2124-8-27**]  06:00 AM
                            [**2124-8-28**]  05:13 AM
   WBC
   6.2
   6.4
   6.7
   5.0
   Hct
   19.6
   23.7
   24.0
   20.1
   Plt
   41
   39
   34
   18
   Cr
   0.5
   0.5
   0.6
   TCO2
   19
   Glucose
   110
   110
   104
   Other labs: PT / PTT / INR:17.2/32.5/1.5, ALT / AST:134/91, Alk Phos /
   T Bili:464/6.7, Differential-Neuts:88.0 %, Lymph:8.2 %, Mono:3.5 %,
   Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:643 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   This is a 57-year-old gentleman with CLL and large cell transformation
   s/p MURD SCT on [**3-10**], recently discharged from [**Hospital1 19**] to rehab, now
   readmitted for increased diarrhea, abdominal pain, and waxing/[**Doctor Last Name 533**]
   mental status.
   #AMS-Patient appears more awake today. Likely etiology is thought to be
   infectious due to adenovirus and BK virus being detected in the [**Doctor Last Name 573**],
   but <500 copies of adenovirus and BK being very highly positive in the
   [**Last Name (LF) 573**], [**First Name3 (LF) **] thought to be due to BK encephalitis. Due to deterioration in
   mental status and persistent altered state, ID has recommended adding
   viral studies to the CSF and to start empiric treatment with IV
   cidofovir at 5mg/kg IV weekly. In addition, he will need IV hydration
   with NS and he must receive oral probenecid (as this does not come IV)
   for renal protection. Other etiologies of AMS could include toxic
   metabolic or medication effect given recent recent ativan and morphine
   for pain control. In addition, malignant process such as return of
   cancer could be possible but CSF did not show malignant cells. In
   addition, MRI, though a poor study did not show any other possible
   explanations.
   -Started treatment with cidofovir, patient tolerated probenecid and IVF
   hydration very well
   - Hold all sedating medication for now
   - ID and neuro following, appreciate recs
   - f/u CSF viral PCRs and well as pending cxs
   -started cidofovir 400mg and probenacid as directed by protocol-will
   need one more dose next Friday
   -avoid mind alternating medications
 ativan, morphine, etc.
   -started thiamine IV x 5 days and po folate, to help improve
   nutritional status
   - Consider holding EEG for now as do not want to give patient more
   sedation and appears to be improving..will touch base with Neuro
   -continue broad antibiotic coverage with daptomycin and meropenem ( Day
   1: [**8-22**]) pending further culture data and ID recs
   -continue micafungin for fungal ppx while on heavy immunosuppression
   - NG tube for oral meds in setting of AMS
   .
   #Hypothermia-has been improving with warming blankets, thought to be
   secondary to infection. Pt apparently displayed this physiology with
   his prior viral infectious. Could also be secondary to an endocrine
   source.
   -thyroid studies: TSH and T4 mildly decreased, but in the context of an
   acute illness are difficult to assess, cortisol will be inaccurate
   while patient is on high dose steroids
   -warming blankets.
   -on daptomycin and meropenem in case of bacterial sepsis, as per ID
   team
   .
   # s/p CLL with BMT c/b GVHD
   -care per BMT team
immunosuppressant and prophylactic regimens.
   - Continue cidofovir for one more dose as per ID
   .
   #GI:diarrhea, could be related to immunosuppression/medication effect,
   GVHD.
   - stool cultures  NG thus far.
   - iv fluids PRN
   - replete lytes.
   .
   #Elevated LFTs/bili-chronic since around [**4-25**], per BMT thought to be
   mainly due to GVHD, could be acutely worsened by viral infection.  Will
   continue to monitor and continue immune suppression regimen as per BMT
   team.
   -If worsens, consider RUQ u/s
   .
   #Anemia-baseline is chronic likely secondary to
   immunosuppresion/infection/GVHD, HCT=20.1 today after continued IVF
   hydration
   - F/U with BMT about transfusing 1unit PRBC
   -Transfustion threshold 21
   - Active type and screen
   - Guaiac stools
   -Continue to monitor
   .
   #Thrombocytopenia-chronic as with anemia, but with recently decreasing
   platelets, will continue to monitor for signs of bleeding, has chronic
   GI bleeding and some weeping from edematous skin
cidofovir can cause
   thrombocytopenia
   - Will f/u with BMT about transfusion thresholds
   .
   #Non gap metabolic acidosis- Patient with primary respiratory alkalosis
   likely from CNS origin; with metabolic compensation on top of a non
   anion gap metabolic acidosis likely secondary to diarrhea
   - If patient needs further IVF then will change to LR due to
   hyperchloremia
   -Continue to monitor respiratory status-currently sating well on 3LNC
   - Follow bicarbs and vbg
   .
   #HTN-currently normotensive
   - will continue metoprolol 12.5mg TID via NGT
   .
   #HL-currently holding statin given transaminitis
   ICU Care
   Nutrition:
   TPN without Lipids - [**2124-8-27**] 08:00 PM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-8-25**] 01:20 PM
   Prophylaxis:
   DVT: pnemoboots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely call out to BMT today
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his hospital course and
   labs and was present for the key portions of the services provided.  I
   have reviewed Dr [**Last Name (STitle) 10627**]
s note above and agree with her findings and
   plan of care.  Mr [**Known lastname 9130**] remains somnolent but does open his eyes and
   follows simple commands at times.  His lactate and WBC remain normal
   and he
s hemodynamically stable.  His lytes suggest stable mild anion
   gap met acidosis which yesterday seemed clearly compensatory  to
   primary resp acidosis.  His platelets and Hct are lower today and we
   check with BMT service to get their wishes for platelet and rbc
   transfusions.  As he
s been stable for 3 days and TPN has been started,
   I would think he is ready for transfer back to the
   BMT floor and we
ll thus call him out today.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2124-8-28**] 14:27 ------